US07091214B2
7-Bromo-N4-isobutylquinoline-3,4-diamine (39.4 g of crude material), trimethyl orthovalerate (32 g, 0.20 mol), and pyridine hydrochloride (0.31 g, 2.7 mmol) were combined with anhydrous toluene (500 mL) and heated to reflux for 30 min. The reaction was cooled to room temperature, concentrated, and the residue was purified by chromatography on silica gel (75% ethyl acetate in hexane to 100% ethyl acetate gradient) to afford 21.2 g of 7-bromo-2-butyl-1-isobutyl-1H-imidazo[4,5-c]quinoline as a yellow solid.

reactant | 7-Bromo-N4-isobutylquinoline-3,4-diamine | 39.4 g | BrC1=CC=C2C(=C(C=NC2=C1)N)NCC(C)C | C13H16BrN3
reactant | trimethyl orthovalerate | 0.20 mol, 32 g | C(CCCC)(OC)(OC)OC | C8H18O3
catalyst | pyridine hydrochloride | 2.7 mmol, 0.31 g | Cl.N1=CC=CC=C1
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 7-bromo-2-butyl-1-isobutyl-1H-imidazo[4,5-c]quinoline | 21.2 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)CCCC | C18H22BrN3
